US07741497B2
In a flask made of glass having an inner volume of 100 ml and equipped with a stirring device, a thermometer, a dropping funnel and a distillation device were charged 1.28 g (9 mmol) of 4-propionyltetrahydropyran synthesized in the same manner as in Example 5, 16.0 g (180 mmol) of dimethyl carbonate and 1.2 g (22 mmol) of sodium methoxide, and the mixture was reacted at 80 to 85° C. for 2 hours with distilling by-producing methanol off. After completion of the reaction, the reaction mixture was cooled to 5 to 10° C., to the reaction mixture were added 50 ml of ethyl acetate, 3.4 g (24 mmol) of 6 mol/l hydrochloric acid and 15 ml of water in this order. After the organic layer was separated, the aqueous layer was extracted twice with 50 ml of ethyl acetate. The organic layer was concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography (Eluent; hexane/ethyl acetate=3/1 (volume ratio)) to give 0.60 g (Isolation yield: 33%) of methyl 3-(4-tetrahydropyranyl)-2-methyl-3-oxopropanoate as a colorless liquid.

reactant | 4-propionyltetrahydropyran | 9 mmol, 1.28 g | C(CC)(=O)C1CCOCC1 | C8H14O2
reactant | dimethyl carbonate | 180 mmol, 16.0 g | C(OC)(OC)=O | C3H6O3
reactant | sodium methoxide | 22 mmol, 1.2 g | C[O-].[Na+]
reactant | hydrochloric acid | 24 mmol, 6 mol/l, 3.4 g | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-(4-tetrahydropyranyl)-2-methyl-3-oxopropanoate | 0.60 g, yield: 33% | O1CCC(CC1)C(C(C(=O)OC)C)=O | C10H16O4
